US06599917B1
b) 2-Benzyl-6-(2-hydroxyphenyl)-3-pyridyl Trifluoromethane Sulfonate
A mixture of 54.5 mg of 2-benzyl-3-hydroxy-6-(2-hydroxyphenyl)pyridine, 70.2 mg of N-phenyltrifluoromethanesulfonimide, 824 μl of triethylamine, 1.2 mg of 4-dimethylaminopyridine and 1.5 ml of dichloromethane was stirred at room temperature for 2.5 hours. Silica gel was added to the reaction solution, and the solvent was removed. The residue was subjected to silica gel column chromatography using 12% ethyl acetate/hexane, to give 68.5 mg of the target compound.

reactant | 2-benzyl-3-hydroxy-6-(2-hydroxyphenyl)pyridine | 54.5 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1O)C1=C(C=CC=C1)O | C18H15NO2
reactant | N-phenyltrifluoromethanesulfonimide | 70.2 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triethylamine | 824 μl | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 1.2 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | 2-Benzyl-6-(2-hydroxyphenyl)-3-pyridyl Trifluoromethane Sulfonate | 68.5 mg | FC(S(=O)(=O)OC=1C(=NC(=CC1)C1=C(C=CC=C1)O)CC1=CC=CC=C1)(F)F | C19H14F3NO4S
